US06100405
N,N-Diphenyl-6-bromo-2-naphthylamine
A mixture of N-phenyl-6-bromo-2-naphthylamine (29.8 g. 0.10 moles), iodobenzene (50 g. 0.245 mol.), potassium carbonate (60 g. 0.434 mol.), copper bronze (4.0 g. 0.063 g. atoms), 18-crown-6 (3.7 g. 0.014 mol.) and dichlorobenzene (100 ml) was kept under reflux for 3 hours under nitrogen, cooled and filtered. The residue remaining after concentration of the filtrate, was chromatographed over 600 g of silica gel. Elution with toluene-heptane (1:9), gave the product, 28.65 g., m.p. 135.8-137.4° C., in 77% yield. Mass Spec: m/z 373, 375 (M+), 421 (M+ iodo). The product was contaminated with a small amount of the corresponding iodo compound. A sample recrystallized from heptane, m.p. 137.9-139.2° C. was analyzed. Analysis calculated for C22H16NBr: C, 70.59; H, 4.31; N, 4.09; Br, 21.35. Found: C, 69.23; H, 4.22; N, 3.61; Br, 20.56.

reactant | N-phenyl-6-bromo-2-naphthylamine | 0.10 moles, 29.8 g | C1(=CC=CC=C1)NC1=CC2=CC=C(C=C2C=C1)Br | C16H12BrN
reactant | iodobenzene | 0.245 mol, 50 g | IC1=CC=CC=C1 | C6H5I
reactant | potassium carbonate | 0.434 mol, 60 g | C([O-])([O-])=O.[K+].[K+]
reactant | 18-crown-6 | 0.014 mol, 3.7 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
catalyst | copper bronze | 4.0 g | [Cu] | Cu
solvent | dichlorobenzene | 100 ml | C1=CC(=CC=C1Cl)Cl | C6H4Cl2
product | N,N-Diphenyl-6-bromo-2-naphthylamine | 77% yield | C1(=CC=CC=C1)N(C1=CC=CC=C1)C1=CC2=CC=C(C=C2C=C1)Br | C22H16BrN
